US07608629B2
2,4-Difluoro-N-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-benzamide hydrogen chloride salt
Using a method similar to example 160, using 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine (preparation 60, 150 mg, 0.724 mmol) and 2,4-difluorobenzoyl chloride (133 μL, 1.08 mmol) yields the title compound (230 mg, 83%). Mass spectrum (ion spray): m/z 348.1 (M+1); Analysis calculated for C18H20N3O2ClF2.0.5H2O. Theory: C, 55.03; H, 5.39; N, 10.70. Found: C, 54.88; H, 5.39; N, 10.73. mp=269-271° C.

reactant | 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine | 0.724 mmol, 150 mg | CN1CCC(CC1)OC1=CC=CC(=N1)N | C11H17N3O
reactant | 2,4-difluorobenzoyl chloride | 1.08 mmol, 133 μL | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
product | 2,4-Difluoro-N-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-benzamide hydrogen chloride salt | 230 mg, 83% | Cl.FC1=C(C(=O)NC2=NC(=CC=C2)OC2CCN(CC2)C)C=CC(=C1)F | InChI=1S/C18H19F2N3O2.ClH/c1-23-9-7-13(8-10-23)25-17-4-2-3-16(21-17)22-18(24)14-6-5-12(19)11-15(14)20;/h2-6,11,13H,7-10H2,1H3,(H,21,22,24);1H
